US05591862
According to the method described for Reference Example 35, (E)-3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-propen-1-al was allowed to react with diethyl cyanomethylphosphonate to give (E,E)-5-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadienenitrile as an oily product.

reactant | (E)-3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-propen-1-al | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=CC1)/C=C/C=O | C20H17NO3
reactant | diethyl cyanomethylphosphonate | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
product | (E,E)-5-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadienenitrile | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=CC1)/C=C/C=C/C#N | C22H18N2O2
